US09233979B2
Step 1: tert-butyl(4,6-dichloropyridin-2-yl)carbamate
To a stirred solution of 4,6-dichloropyridin-2-amine (5.0 g, 30.6 mmol) in THF (100.0 mL) was added NaHMDS (67.5 mL, 1M solution in THF, 67.0 mmol) at −78° C. followed by Boc anhydride (8.08 g, 36.7 mmol) and allowed to warm to room temperature over 12 h. After confirming the completion of starting material by TLC, the reaction mixture was quenched with saturated ammonium chloride solution extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous Na2SO4, filtered, concentrated under reduced pressure to get crude product which was purified by column chromatography (hexanes:ethyl acetate=9:1) to afford desired product. 1H NMR (ppm, 400 MHz, DMSO-d6): δ 10.48 (s, 1H), 7.85 (s, 1H), 7.36 (s, 1H), 1.46 (s, 9H), MS ES calc'd. for C10H12C12N2O2 [M+H]+ 263. Found: 263.

reactant | 4,6-dichloropyridin-2-amine | 30.6 mmol, 5.0 g | ClC1=CC(=NC(=C1)Cl)N | C5H4Cl2N2
reactant | NaHMDS | 67.0 mmol, 1M, 67.5 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | Boc anhydride | 36.7 mmol, 8.08 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 100.0 mL | C1CCOC1 | C4H8O
product | tert-butyl(4,6-dichloropyridin-2-yl)carbamate | C(C)(C)(C)OC(NC1=NC(=CC(=C1)Cl)Cl)=O | C10H12Cl2N2O2
